US09353107B2
Step-ii: tert-butyl 4-(4-(6-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate
Using similar reaction conditions as described in step-iii of example-1, tert-butyl 4-(4-(6-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (111 mg, 0.14 mmol) was hydrolyzed by lithium hydroxide (17.6 mg, 0.42 mmol), in methanol/water (3/2 ml) to afford 14 mg of the titled compound. 1H NMR (CDCl3, 300 MHz): δ 8.7 (b, 1H), 7.52 (s, 1H), 7.40-7.37 (m, 2H), 7.107-7.099 (d, 1H), 7.002-6.9 (m, 3H), 6.9-6.8 (m, 1H), 5.26 (s, 2H), 3.62-3.59 (t, 3H), 3.209-3.117 (t, 3H), 2.22 (s, 1H), 3.12 (s, 3H), 1.496 (s, 9H), 1.16-1.15 (m, 2H), 0.91-0.87 (m, 2H). MS: m/z=621.3 (M+1).

reactant | tert-butyl 4-(4-(6-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.14 mmol, 111 mg | C1(CC1)C1=C(C=C2C(=N1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)S(=O)(=O)C2=CC=C(C)C=C2)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C44H47FN6O4S
reactant | lithium hydroxide | 0.42 mmol, 17.6 mg | [OH-].[Li+]
solvent | methanol water | 2 ml | CO.O
product | tert-butyl 4-(4-(6-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 14 mg | C1(CC1)C1=C(C=C2C(=N1)NC=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C37H41FN6O2
